** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/2Div.sch
**.subckt 2Div gd vp in div2 div4 div8 div16 div32 div64 div128
*.iopin gd
*.ipin in
*.iopin vp
*.opin div2
*.opin div4
*.opin div8
*.opin div16
*.opin div32
*.opin div64
*.opin div128
x1 div2 vp gd net1 in net1 d_flip_flop
x2 div4 vp gd net2 div2 net2 d_flip_flop
x3 div32 vp gd net5 div16 net5 d_flip_flop
x4 div64 vp gd net6 div32 net6 d_flip_flop
x5 div8 vp gd net3 div4 net3 d_flip_flop
x6 div16 vp gd net4 div8 net4 d_flip_flop
x7 div128 vp gd net7 div64 net7 d_flip_flop
**.ends

* expanding   symbol:  CHIP-PLL/schematics/divider/schematics/d_flip_flop.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/d_flip_flop.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/d_flip_flop.sch
.subckt d_flip_flop q VP GND q_ clk d
*.iopin GND
*.ipin clk
*.iopin VP
*.ipin d
*.opin q
*.opin q_
x2 VP GND net1 q q_ NOR_2in
x3 VP GND q q_ net3 NOR_2in
x4 VP GND net2 net1 clk NOR_2in
x5 VP GND net4 net2 net1 NOR_2in
x6 VP GND net3 net4 d NOR_2in
x1 VP GND net1 net3 clk net4 NAND_3in
.ends


* expanding   symbol:  CHIP-PLL/schematics/divider/schematics/NOR_2in.sym # of pins=5
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NOR_2in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NOR_2in.sch
.subckt NOR_2in VP GND a y b
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
XM3 y a GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 y b net1 VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 net1 a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM5 y b GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends


* expanding   symbol:  CHIP-PLL/schematics/divider/schematics/NAND_3in.sym # of pins=6
** sym_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_3in.sym
** sch_path: /foss/designs/CHIP-PLL/schematics/divider/schematics/NAND_3in.sch
.subckt NAND_3in VP GND a y b c
*.opin y
*.iopin GND
*.ipin a
*.iopin VP
*.ipin b
*.ipin c
XM1 y a net2 GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM3 net2 b net1 GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM4 net1 c GND GND sg13_lv_nmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM7 y c VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM2 y a VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
XM5 y b VP VP sg13_lv_pmos w=0.15u l=0.13u ng=1 m=1 mm_ok=1
.ends

.end
